US08461157B2
Step 145a: 5-Bromo-2-(trifluoromethyl)-1H-benzo[d]imidazole (Compound 0601-318)
A mixture of 4-bromobenzene-1,2-diamine (3.0 g, 16.0 mmol), TFA (9.5 mL, 128.3 mmol) and aq. HCl (3 M, 32 mL) was heated to reflux overnight. The reaction mixture was concentrated and purified by column chromatography to afford the titled compound (2.60 g, 60%). LCMS: 265.0 [M+1]+. 1HNMR (400 MHz, DMSO-d6): δ 7.52 (dd, J=8.8 Hz, 1.2 Hz, 1H), 7.69 (d, J=8.4 Hz, 1H), 7.95 (s, 1H), 14.20 (br, 1H).

reactant | 4-bromobenzene-1,2-diamine | 16.0 mmol, 3.0 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | TFA | 128.3 mmol, 9.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 3 M, 32 mL | Cl | ClH
product | 5-Bromo-2-(trifluoromethyl)-1H-benzo[d]imidazole | 2.60 g, 60% | BrC1=CC2=C(NC(=N2)C(F)(F)F)C=C1 | C8H4BrF3N2
